data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2294,"C1CO[C:1]([OH:2])([O-:3])N1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2619,"CC[C:1](=[O:2])[C:3](C)(C)[C:4](CC)(C(C)C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,491,"C[C:1](C)(CCC1=CC=CC=C1)[OH2+:2].O=S(=O)([O-])F|((1, 2), 2)"
train,pmechdb_split_0,0,3161,"N#C[CH:1](C#N)[H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,380,"CC(C)[C:1]([C:2](C)(C)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4330,"CC1(O)C=CC(C2C(=O)OC3C(O)COC32O)[O+:1]1[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6086,"O[CH:1]=[NH2+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10280,"CC#[N+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3683,"CC(C)[C:1]1([H:2])C=CC=C[C+:3]1C.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8231,"O=C(O)CC(O)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6246,"CC[OH:1].C[C:2](Cl)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6839,"C[CH:1](C1=CC=CC=C1)[Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,795,"C[C:1]1([H:2])C(=O)CC[C:3]1=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4691,"CC1CCC2C(C)C(C=[C+]C[Si:1](C)(C)C)OC3OC4(C)CCC1C32OO4.[Cl][Zn-]([Cl])[O:2][C:3](C1=CC=CC=C1)=[O:4]|(2, 3);((3, 4), 1)"
train,pmechdb_split_0,0,2924,"C[NH:1]N.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9863,"C1=CC=[C:1]([Li:2])C=C1.CC(=O)O[C:3](CCC=O)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4429,"CO[C:1](=[CH:2]CCC(C)=O)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1239,"O=S(=O)(O)[C:1]1([H:2])C=CC=C[C+:3]1CC=CCO.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,220,"CC1=CC(C)=NC(C)=C1.CC1=C[C:1]2=C(CC(C)(C)[C:2]([N+:3]#N)=[C:4]2[O-:5])O1.OCC1=CC=CC=C1|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5704,"COC1=C2OC3C(=O)CCC4C5CC(=C2C34CC[NH:1]5)C=C1.COC1=C2OC3C([O+:2](C)[H:3])=CCC4C5CC(=C2C34CCN5)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7821,"C[B-](C)(C)[O+:1]1CCC[N:2](C)[C:3]1(C)C|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,8178,"CC(C)(C)O.CCOC(=O)[CH:1](C1([O-:2])CCCCC1)[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4357,"C[S+:1](C)Cl.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,2499,"C1CCOC1.C[O-:1].O=C(C(F)(F)F)[O:2][H:3].[Mg+][Br].[O-]C1(C2=CC=CC=C2)OC(C2=CC=CC=C2)C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,448,"C=C[C:1](O)([NH+:2](CC)CC)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6441,"CCCC1CC2=C(C(=O)C1(C=O)C[CH:1]=[C:2](C)[O-:3])C(O)=C(OC)C=C2.CC[N+:4](CC)(CC)[H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5883,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCOC(O)(C1=CC=C([N+](=O)[O-])C=C1)[OH:1].CCCC[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8362,"C[O+](C)[Si:1](C)(C)C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,4256,"CC1=CC=C(S(=O)(=O)OC(C)CC[OH:1])C=C1.O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10086,"CCCC1=CC([O+:1](B(Br)Br)[CH3:2])=C(C)C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6358,"C1=CC=NC=C1.CC(=N[OH:1])C1=CN=CC=C1.CC1=CC=C([S:2](=O)(Cl)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2762,"C[CH:1]([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9536,"C1=CC=C(N=N[C:1]2([H:2])NC=C[CH+:3]2)C=C1.[Cl-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,10408,"C[O+:1]=[CH:2][NH-]|((2, 1), 1)"
train,pmechdb_split_0,0,6057,"CCO.COC1=CC=C([O+](C2OC(COC(C)=O)C(OC(C)=O)C(OC(C)=O)C2OC(C)=O)[K:1])C=C1.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,7114,"C[O+](C)[Si-:1](C)(C)(C)[C:2](C)(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,7887,"CC(=O)O.O=C(C1=CC=CO1)C(C[C:1](C1=C2C=CC=CC2=CC=C1)=[O:2])C1=CC=CC=C1.O=C(O)C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10022,"CCCC=C([O-])C1=C(O)C=CC(Br)=C1.O=C(C(F)(F)F)[O-:1].O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3859,"NC(N)=[NH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1313,"CCCCCC(C[C:1]#[C:2]CC(C)C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,35,"C[C:1](C)=[O+:2]C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10029,"C[O:1][H:2].N#CC1([O-:3])CCOCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4950,"C1=CC=C(P(C2=CC=CC=C2)(C2=CC=CC=C2)=[O+:1][H:2])C=C1.CCOC(=O)CN.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8964,"OC[CH:1]=[CH:2][OH:3].[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7268,"CN=N[OH:1].[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8208,"CC1=CO[C:1](C(C)C)([H:2])[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1950,"CCN(CC)CC.O=[N+]([O-])[C:1]1=[C:2](O)[C:3]2=[C:4](C=CC=C2)[NH:5][C:6]1(Cl)[O:7]P(=O)(Cl)Cl|(5, 4);((4, 3), 2);((2, 1), 6);((6, 7), 7)"
train,pmechdb_split_0,0,2465,"C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(Br)C=C([CH:1]=[O+:2]CC(C)(C)C[OH:3])C=C1.O|(3, 1);((1, 2), 2)"
